US04364875
2-Chloro-4-nitro-5-phenoxy-1-(2,5-dichloro-4-bromophenoxy)-benzene
A mixture of 28.4 gm of 4,5-dichloro-2-nitro-1-phenoxy-benzene, 24.2 gm of 2,5-dichloro-4-bromo-phenol, 10 ml of 10 N sodium hydroxide and 80 ml of dimethylsulfoxide was stirred for 5 hours at 100° C. Thereafter, the reaction mixture was stirred into 700 ml of 1 N sodium hydroxide, the mixture was allowed to stand overnight at room temperature, the liquid phase was decanted, and the precipitated product was taken up in chloroform. The chloroform solution was washed with water, dried with sodium sulfate and evaporated, and the residue was recrystallized from a mixture of 200 ml ethanol and 2 ml dimethylformamide. 36.5 gm (75% of theory) of the light yellow crystalline title compound, m.p. 85° C., were obtained.

reactant | 4,5-dichloro-2-nitro-1-phenoxy-benzene | 28.4 gm | ClC1=CC(=C(C=C1Cl)OC1=CC=CC=C1)[N+](=O)[O-] | C12H7Cl2NO3
reactant | 2,5-dichloro-4-bromo-phenol | 24.2 gm | ClC1=C(C=C(C(=C1)Br)Cl)O | C6H3BrCl2O
reactant | sodium hydroxide | 10 N, 10 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1 N, 700 ml | [OH-].[Na+]
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 2-Chloro-4-nitro-5-phenoxy-1-(2,5-dichloro-4-bromophenoxy)-benzene | ClC1=C(C=C(C(=C1)[N+](=O)[O-])OC1=CC=CC=C1)OC1=C(C=C(C(=C1)Cl)Br)Cl | C18H9BrCl3NO4
